US04857435
Synthesis of maleimide/methylmethacrylate copolymer
In a manner identical to Example 4, 10 g of maleimide, 10 g of methyl methacrylate, 0.8 g of AIBN, and 0.1 g of dodecanethiol were reacted in 20 g of DMF at 90° C. for 14 hr. to give 10.9 g of polymer (yield, 55% of theory). The relative viscosity, ηrel, was 1.10 (0.5 g of polymer per deciliter in dimethylformamide at 25° C.).

reactant | maleimide | 10 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | methyl methacrylate | 10 g | C(C(=C)C)(=O)OC | C5H8O2
solvent | DMF | 20 g | CN(C)C=O | C3H7NO
catalyst | AIBN | 0.8 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
catalyst | dodecanethiol | 0.1 g | C(CCCCCCCCCCC)S | C12H26S
product | maleimide methylmethacrylate | 10.9 g, 55% | C1(C=CC(N1)=O)=O.COC(C(=C)C)=O | InChI=1S/C5H8O2.C4H3NO2/c1-4(2)5(6)7-3;6-3-1-2-4(7)5-3/h1H2,2-3H3;1-2H,(H,5,6,7)
